US06875784B2
II. N-({(5S)-3-[4-(3-azido-4-methansulfonyloxypyrrolidin-1-yl)-3-fluorophenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide
Methanesulfonyl chloride (8 μL, 0.10 mmol) was added to a solution of N-({(5S)-3-[4-(3-azido-4-hydroxypyrrolidin-1-yl)-3-fluorophenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide (30 mg, 0.08 mmol) and triethylamine (16 μL, 0.12 mmol) in dichloromethane (0.5 mL) at 0° C. After 1 h, the solution was diluted with more dichloromethane, washed with dilute NaHCO3, brine and dried (MgSO4), filtered and concentrated to give the title compound as an oil. This material was used directly in the next reaction.

reactant | Methanesulfonyl chloride | 0.10 mmol, 8 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-({(5S)-3-[4-(3-azido-4-hydroxypyrrolidin-1-yl)-3-fluorophenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide | 0.08 mmol, 30 mg | N(=[N+]=[N-])C1CN(CC1O)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C16H19FN6O4
reactant | triethylamine | 0.12 mmol, 16 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | N-({(5S)-3-[4-(3-azido-4-methansulfonyloxypyrrolidin-1-yl)-3-fluorophenyl]-2-oxo-1,3-oxazolidin-5-yl}methyl)acetamide | N(=[N+]=[N-])C1CN(CC1OS(=O)(=O)C)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C17H21FN6O6S
